Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Macrolide Antibiotics / Phenergan / Doxycycline / Erythromycin 
Base / Zithromax / Tetracycline
 
Attending: ___
 
Chief Complaint:
 found down
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
History: Obtained mostly from patient's mother, with some input 
from patient, who slept during much of interview
.
HISTORY OF PRESENTING ILLNESS: Pt is a ___ yo F with a history of 
extensive IVDU, recent hospital admission for MRSA tricuspid 
endocarditis and septic emboli to the lungs. She was treated 
with a four week course of IV daptomycin and was discharged from 
___ on ___. Patient has been living with her 
mother, who took a leave of absence from work in order to 
supervise the patient. Over the past three days, the patient has 
complained of low back pain; she reports falling recently at 
___ and having a bruise in the area of pain. Her mother 
states ___ back pain was related to having particularly heavy 
menses over the past five days. The patient reports that last 
night she took five klonopin, along with doxepin, which made her 
"out of it." She does not recall taking any illicit drugs. She 
states that her last drug use was early in her admission at 
___, when she snorted heroin. She denies any heroin or 
cocaine use over the past several weeks, but had been treated 
with morphine until her discharge from ___ on ___.
Last night, she was found down by her mother outside her house; 
she was initally unresponsive per her mother, and found to be 
tachycardic with cyanotic fingers. Per report, she became 
arousable after about four minutes and was brought to ED by EMS.
.
In the ED, initial vitals were T 99.5 HR 125 BP 142/84 RR 18 95% 
on RA. She received 2L NS, Ceftriaxone, Cefazolin, IV 
clindamycin and IV flagyl. Labs were significant for a slight 
leukocytosis to 12.2, Hct 30 (at baseline), urine tox positive 
for opiates and cocaine. She underwent a CXR that showed no 
consolidation and MRI of the spine that showed no evidence of 
epidural abscess. She was admitted to the medicine service for 
further management.
.
On arrival to the floor, the patient reported mild lower back 
pain. Denied other symptoms including F/C/N/V, SOB, 
palpitations, dizziness.
 
Past Medical History:
Hx MRSA tricuspid endocarditis ___
Atrial septal defect (small)
Untreated Hepatitis C
Asthma
?Bipolar disorder - per pt, recent dx at ___ 
 
Social History:
___
Family History:
No history of cardiac problems
 
Physical Exam:
VS: T=98.9, BP=116/76, HR=102, RR=20, O2 sat=99% on RA
GENERAL: Sleepy but easily arousable young female in NAD. 
Oriented x3.
HEENT: NCAT. Sclera anicteric. pupils dilated but reactive, 
EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral 
mucosa.
NECK: supple, dry mm
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. II/VI holosystolic mumur LLSB
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
BACK: No spinal or paraspinal TTP, no CVA tenderness
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: Track marks over arms bilaterally. No areas of erythema or 
ulceration. 
 
Pertinent Results:
Laboratory Findings:
___ 03:30AM BLOOD WBC-12.2* RBC-3.56* Hgb-10.3* Hct-30.3* 
MCV-85 MCH-28.9 MCHC-33.9 RDW-15.5 Plt ___
___ 03:30AM BLOOD Neuts-58.6 ___ Monos-4.0 Eos-2.9 
Baso-0.3
___ 03:30AM BLOOD ___ PTT-33.7 ___
___ 03:30AM BLOOD Glucose-95 UreaN-15 Creat-0.6 Na-142 
K-3.4 Cl-106 HCO3-28 AnGap-11
___ 03:30AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.9
___ 03:30AM BLOOD CRP-43.4*
___ 03:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:30AM BLOOD LtGrnHD-HOLD
___ 03:40AM BLOOD Lactate-0.9
___ 11:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:00AM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 11:00AM URINE ___ Bacteri-FEW Yeast-NONE 
___ 11:00AM URINE Mucous-FEW
___ 11:00AM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-POS amphetm-NEG mthdone-NEG
.
Microbiology:
Blood Cx ___ x 3 - No growth to date 
.
Imaging/Studies:
CXR ___:  Bilateral small pleural effusions and small cystic 
area seen
within the lung, likely residual from prior septic emboli. No 
areas of focal consolidation.
.
MRI C/T/L Spine ___: 
1. No evidence of abnormal enhancement, epidural abscess or 
evidence of
infection. 
2. Abnormal T1 hypointensity in the inferior aspect of the L2 
vertebral body with subtle STIR hyperintensity but without 
evidence of enhancement. Given the history of septic emboli in 
the past, this could represrnt resolving infection or less 
likely related to subacute trauma.
3. Scattered parenchymal hyperintensity in the lung, with areas 
of T2
hyperintensity that appear improved since the prior torso CT, 
but is
incompletely evaluated on the current study. 
4. Ovarian versus paraovarian cystic lesions incompletely 
evaluated on the
current study. As recommended previously, a followup pelvic 
ultrasound is
recommended to verify resolution.
 
Brief Hospital Course:
___ y/o female with a h/o IVDU and admission for MRSA 
endocarditis s/p 4 weeks course of IV daptomycin who presented 
with AMS, likely in the setting of recurrent illicit drug use.
.
#. AMS/Somnolence: Felt to be most consistent with drug 
intoxication, especially given urinary toxicology screen 
positive for cocaine and opiates.  The patient was somnolent for 
most of her stay in the emergency department; when she was 
admitted to the medical floor she woke up and requested to leave 
the hospital.  She denied any illicit drug use and stated that 
she was unwilling to stay in the hospital for her TTE (which had 
been scheduled for ___ to monitor resolution of her 
endocarditis).  The patient was A&Ox3 and felt to have capacity 
to make decisions.  The medical team and social worker were 
unable to convince the patient to remain in the hospital in 
order to monitor for signs of recurrent infection and/or 
withdrawal.  The patient stated her understanding that she could 
have a serious infection that could be life-threatening, and 
left the hospital AMA.  She was not willing to remain in the 
hospital long enough to reschedule her echocardiogram or 
follow-up of her ovarian cyst.  

 
Medications on Admission:
Pt unsure - unable to verify prior to patient leaving AMA
 
Discharge Medications:
Patient left AMA
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Patient left AMA
 
Discharge Condition:
Patient left AMA
 
Discharge Instructions:
Patient left AMA
 
Followup Instructions:
___